US06362211B1
b) (1-Bromocyclohexyl)phenyl Ketone
Temperature was kept at 20-25° C. when bromine (2.8 ml) was added slowly to a stirred mixture of cyclohexylphenyl ketone (10 g) in CH2Cl2 (50 ml) and acetic acid (1 ml). The mixture was stirred at the ambient temperature for 1 hour and extracted with 5% NaHCO3 (2×30 ml) and water (30 ml). The organic phase was dried over Na2SO4 and evaporated. Yield was 14.1 g.

reactant | bromine | 2.8 ml | BrBr | Br2
reactant | cyclohexylphenyl ketone | 10 g | C1(CCCCC1)C(=O)C1=CC=CC=C1 | C13H16O
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | (1-Bromocyclohexyl)phenyl Ketone | BrC1(CCCCC1)C(=O)C1=CC=CC=C1 | C13H15BrO
